US07420055B2
Synthesis of N-[4-Chloro-2-(6-methyl-pyridine-2-carbonyl)-phenyl]-4-(1-methyl-1-oxazol-2-yl-ethyl)-benzenesulfonamide
The title compound was prepared from (2-Amino-5-chloro-phenyl)-(6-methyl-pyridin-2-yl)-methanone and 4-(1-methyl-1-oxazol-2-yl-ethyl)-benzenesulfonyl chloride following the general procedure described for the preparation of N-aryl-benzenesulfonamides. MS: m/z 496 (M++1).

reactant | (2-Amino-5-chloro-phenyl)-(6-methyl-pyridin-2-yl)-methanone | NC1=C(C=C(C=C1)Cl)C(=O)C1=NC(=CC=C1)C | C13H11ClN2O
reactant | 4-(1-methyl-1-oxazol-2-yl-ethyl)-benzenesulfonyl chloride | CC(C)(C=1OC=CN1)C1=CC=C(C=C1)S(=O)(=O)Cl | C12H12ClNO3S
product | N-[4-Chloro-2-(6-methyl-pyridine-2-carbonyl)-phenyl]-4-(1-methyl-1-oxazol-2-yl-ethyl)-benzenesulfonamide | ClC1=CC(=C(C=C1)NS(=O)(=O)C1=CC=C(C=C1)C(C)(C=1OC=CN1)C)C(=O)C1=NC(=CC=C1)C | C25H22ClN3O4S
